Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Worsening depressive symptoms 
Auditory hallucination, voice telling him to "hurt"
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
"He is sent in by his outpatient psychiatrist for safety 
evaluation. ___ endorses that during the past few weeks, he 
has had another depressive episode with increased sleep, 
decreased energy, feelings of guilt, decreased appetite, 
decreased concentration and passive suicidal thoughts of 
thinking it would be better if he were dead. He notes that he 
has had multiple episodes like these in the past and typically 
does not have voices associated with these episodes. He does 
have a several year history of hearing a voice calling his name
intermittently, which he states he is used to now and does not 
find distressing. 

Over the past few months, he has been having worsening paranoia, 
noting to his psychiatrist via email that "I kept looking around 
the room and had a feeling like someone was watching me...I keep 
looking over my shoulder expecting something to be there but I'm 
not sure what, I just know it's going to be bad. I have a 
horrible sense of impending doom, like something bad is going to 
happen." He noted that the voice, which had previously only said 
his name, now was stating different things such as "There he 
is." He was restarted on his Abilify 5mg, and he noted to have 
improvement in his paranoia and his voices went back to 
baseline, but he did have one episode of hypnogogic 
hallucinations during this time. Due to weight gain, blunted 
affect and cognitive concerns, his abilify was stopped. He 
continued to attend classes, take care of his ADLs and spend 
time with friends during the month of ___.

However, ten days after stopping Abilify, he started developing 
worsening voices and 1 day prior to presentation noted having a 
voice that repeatedly said 'hurt' as if compelling him to hurt 
others or himself. He notes that he has no desire to hurt others 
or himself, but is distressed by the voice and feels frightened 
about what he feels it is telling him to do."

In the ED, ___ was in good behavioral control with no 
chemical or physical  restraints were required.

On interview today in the unit, ___ endorses much of the HPI 
as noted above.  States that he is nervous because this is his 
first psychiatric hospitalization.  Noted that his usual 
auditory hallucination is comprised of a male, "generic" voice 
that calls his name that starting yesterday, voice changed into 
a raspier voice telling him "hurt "every few minutes.  ___ 
endorsed still hearing auditory hallucinations during interview. 
 Denies any suicidal ideation.  Also notes that he has had a few 
weeks of worsening depressive symptoms, noting increased sleep 
___ hours or day while still feeling tired], decreased 
interest in his usual hobbies of reading, watching movies, and 
playing guitar, and feeling more fatigued.  Denies any 
particular trigger to his depression.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
[Extracted from Dr. ___ ___ ED Initial Psychiatry
Consult note, reviewed with ___, and updated as 
appropriate.]
-Prior diagnoses: OCD, psychosis NOS, MDD with psychotic 
features
-Hospitalizations: denies
-Partial hospitalizations: denies
-Psychiatrist/Therapist: Dr. ___ trials: Klonopin, Seroquel, Buspar, Tenex, states
that when he first started hearing voices and high school, he 
was
trialed on many medications
-___ trials: denies
-Suicide attempts: Vaguely alludes to attempt in the eighth 
grade, when he experienced his first episode of depression.
-Self-injurious behavior: denies
-Harm to others: denies
-Trauma: denies
-Access to weapons: denies

PAST MEDICAL HISTORY:
**PCP: ___, MD
___ denies any active medical problems.
Denies history of head trauma, seizure.

 
Social History:
___
Family History:
-Psychiatric Diagnoses: anxiety
-Substance Use Disorders: denies
-Suicide Attempts/Completed Suicides: denies
 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================
VITAL SIGNS:
T: 98.8 , HR: 105 , BP: 128/83 , RR: 22 , SpO2 97% on RA

EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consensually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYB with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents, is aware of current events, states ___ is
a special counsel investigating possible collisions with
depression government.
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "people like to imagine other people's lives
better"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: Bearded young man appearing stated age, with 
tattoos
on forearms, well groomed, wearing hospital gown, somewhat
anxious
-Behavior: Sitting up in chair, no psychomotor retardation, or
agitation, appropriate eye contact
-Attitude: Cooperative, engaged, friendly
-Mood: "Nervous and a little depressed"
-Affect: Mood-congruent, blunted, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: +auditory hallucinations as above, denies VH,
not appearing to be attending to internal stimuli
-Insight/Judgment: Fair/fair given help-seeking behavior and
insight into worsening psychiatric symptoms and continued
follow-up with outpatient psychiatrist

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================
Vitals
Temp: 98.2 (Tm 98.2) 
BP: 126/71 (118-126/71-78) 
HR: 88 (87-88) 
RR: 18, O2 sat: 96%  

General examination: 
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Mental status:
Appearance: ___ well kept, in home clothing 
Behavior: Appropriate
Mood and Affect: Smile on face, pleasant
Thought process: Linear, logical
Thought content: Appropriate 
Insight/Judgment: Intact 
Cognition: Intelligent, no deficit in understanding
Attention: Intact 
Orientation: Intact to place, date, reason for inpatient stay 
Memory: Deferred
Speech: Fluent, normal prosody

 
Pertinent Results:
=============================
ADMISSION LABORATORY STUDIES:
=============================
___ 12:55PM BLOOD WBC-8.8 RBC-5.05 Hgb-15.5 Hct-44.0 MCV-87 
MCH-30.7 MCHC-35.2 RDW-13.1 RDWSD-41.1 Plt ___
___ 12:55PM BLOOD Glucose-99 UreaN-11 Creat-1.0 Na-138 
K-4.2 Cl-99 HCO3-24 AnGap-15
___ 06:15AM BLOOD Triglyc-472* HDL-28* CHOL/HD-7.2 
LDLmeas-116
___ 12:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

Cholest: 201 
Triglyc: 472 (not fasting)
HDL: 28
LDLmeas: 116 
HbA1c: 4.___. LEGAL & SAFETY:  
On admission, the ___ signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Major depressive disorder with psychotic features:
On admission interview, ___ provided linear narrative of 
evolution of affective and psychotic symptoms; he endorsed 
ongoing perceptual disturbances (AH) but he did not appear 
internally preoccupied. He did not disclose delusional thought 
content, although he alluded to vague paranoia concomitant with 
worsening depressive symptoms. He denied frank suicidal ideation 
or thoughts/urges to engage in self-harm; however, he continued 
to experience AH as distressing. His presentation appeared most 
consistent with MDD with psychotic features; review of 
historical symptoms did not appear consistent with 
obsessive-compulsive disorder. Psychotic symptoms, although 
present in the absence of mood symptoms, did not appear to be 
suggestive of primary psychotic illness. ___ had experienced 
improvement in paranoia/AH with initiation of Abilify 
previously, thus Abilify 5mg QHS was continued. Also continued 
home Zoloft 200mg q daily. On ___, ___ reported 
subjective improvement in psychotic symptoms, stating that AH 
voice saying "hurt" has disappeared. He denied any medication 
side effects from restarting Abilify (e.g. denied subjective 
sense of restlessness or akathesia). Overall, his affect 
appeared brighter, and his stated mood was "better." He 
verbalized future oriented thought content and was looking 
forward to discharge. On day of discharge, he indicated that he 
planned to meet with Dr. ___ in addition to attending 
re-entry appointment with school clinic. ___ also plans to 
spend the weekend with his family in ___. 

3. SUBSTANCE USE DISORDERS: N/A

4. MEDICAL: N/A

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
___ often attended these groups that focused on teaching 
patients various coping skills. He was consistently pleasant on 
approach and interacted appropriately with patients and staff.   


#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
-Psychiatrist Dr. ___ at ___
-Parents: ___ (home phone: ___. Of 
note, Dr. ___ met with ___ and his family on ___ in 
the afternoon. 

INFORMED CONSENT: 
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of aripiprazole, and risks 
and benefits of possible alternatives, including not taking the 
medication, with this ___. We discussed the ___ right 
to decide whether to take this medication as well as the 
importance of the ___ actively participating in the 
treatment and discussing any  questions about medications with 
the treatment team, and I  answered the ___ questions.  
The ___ appeared able to understand and consented to begin 
the medication.

RISK ASSESSMENT
On presentation, the ___ was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon his 
interpretation that that the auditory hallucination of "hurt" 
was suggestive to ___ to hurt others. His static factors 
noted at that time include: chronic mental illness, male gender, 
and age. The modifiable risk factors were also addressed at that 
time, which included threatening auditory hallucinations, which 
subsequently abated with re-initiation of aripiprazole. ___ 
also has scheduled follow up appointment with his long time 
psychiatrist. ___ will spend long weekend with family for 
support. Finally, the ___ is being discharged with many 
protective risk factors, help-seeking nature, future-oriented 
viewpoint, life satisfaction, reality testing ability, good 
coping skills, good problem-solving skills, positive therapeutic 
relationship with outpatient providers, lack of suicidal 
ideation, no history of substance use disorder, no history of 
abuse, ability to tolerate rejection, and strong social 
supports. ___ also demonstrated preserved capacity to engage 
in a meaningful discussion about safety planning in the event 
that symptoms of psychosis return or thoughts of suicide appear 
(e.g. ___ indicated that he would contact his psychiatrist 
or re-present to the ED). Overall, based on the totality of our 
assessment at this time, the ___ is not at an acutely 
elevated risk of self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 5 mg PO QHS 
2. Sertraline 200 mg PO QHS 

 
Discharge Medications:
1.  ARIPiprazole 5 mg PO QHS  
2.  Sertraline 200 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder with Psychotic Features

 
Discharge Condition:
Caucasian man who appears stated age, casually dressed in no 
acute distressed. Mood is 'better,' affect is bright, euthymic 
and stable. Thought process is linear and goal-directed. Thought 
content is absent for suicidal ideation or thoughts/urges to 
engage in self harm or harm to others. Denies current perceptual 
disturbances; no evidence of internal preoccupation. Judgment 
and insight good.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___